US07635715B2
Step B: Preparation of N-((8-Fluoro-4-hydroxy-1,1-dimethyl-7-((2-methylpropyl)oxy)-2-oxo-naphthalen-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((8-fluoro-4-hydroxy-1,1-dimethyl-7-((2-methylpropyl)oxy)-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.22 g, 0.51 mmol) in 2 mL TFA was stirred at room temperature for 30 minutes, M+1=380. The mixture was concentrated and triturated in DCM/hexane (5:10). The solid was filtered, washed with 10 mL DCM/hexane (5:10), and dried under high vacuum to give 0.18 g of the product as a pale yellow solid. MS (m/z)=380 (M+H)+. Calculated for C19H22FNO6 379.14.

reactant | 1,1-dimethylethyl N-((8-fluoro-4-hydroxy-1,1-dimethyl-7-((2-methylpropyl)oxy)-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.51 mmol, 0.22 g | FC=1C(=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O)OCC(C)C | C23H30FNO6
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((8-Fluoro-4-hydroxy-1,1-dimethyl-7-((2-methylpropyl)oxy)-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.18 g | FC=1C(=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)O)O)OCC(C)C | C19H22FNO6
